US05023334
Preparation of ethyl [1-(2-pyridinyl)ethylidene]carbazate, Compound 70
A mixture of 6.06 gm (0.05 mole) of 2-acetylpyridine, 5.21 gm (0.05 mole) of ethylcarbazate and 100 ml of absolute ethanol is refluxed 2 hr. The hot solution is filtered. The filtrate is cooled to room temperature and then chilled in the refrigerator. The product is collected, washed with Skellysolve B and dried to yield 3.8 gm (37%) of the title compound having a melting point of 113.2° C.

reactant | 2-acetylpyridine | 0.05 mole, 6.06 gm | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | ethylcarbazate | 0.05 mole, 5.21 gm | C(C)OC(NN)=O | C3H8N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl [1-(2-pyridinyl)ethylidene]carbazate | 3.8 gm, 37% | N1=C(C=CC=C1)C(C)=NNC(=O)OCC | C10H13N3O2
